US06642227B2
Methanesulfonic acid 3-{3-[3-(4-cyano-5-methylsulfanyl-3-pyridin-3-yl-thiophene-2-yl)-4-methyl-phenylamino]-phenoxyl}-propyl ester
To a solution of 5-{5-[3-(3-hydroxy-propoxy)-phenylamino]-2-methyl-phenyl}-2-methylsulfanyl-4-pyridin-3-yl-thiophene-3-carbonitrile (370 mg, 0.76 mmol) in DCM (10 mL) was added Et3N (155 mg, 0.15 mmol) followed by MsCl (130 mg, 1.15 mmol). The resulting mixture was stirred at ambient temperature for 10 min under nitrogen then poured into 20 ml water and extracted with DCM (20 ml×3). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The desired product was obtained (391 mg, 91%) and confirmed by LC/MS (Calculated: 565.12; observed: 565.1+1, ES+).

reactant | 5-{5-[3-(3-hydroxy-propoxy)-phenylamino]-2-methyl-phenyl}-2-methylsulfanyl-4-pyridin-3-yl-thiophene-3-carbonitrile | 0.76 mmol, 370 mg | OCCCOC=1C=C(C=CC1)NC=1C=CC(=C(C1)C1=C(C(=C(S1)SC)C#N)C=1C=NC=CC1)C | C27H25N3O2S2
reactant | Et3N | 0.15 mmol, 155 mg | CCN(CC)CC | C6H15N
reactant | MsCl | 1.15 mmol, 130 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 20 ml | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-{3-[3-(4-cyano-5-methylsulfanyl-3-pyridin-3-yl-thiophene-2-yl)-4-methyl-phenylamino]-phenoxyl}-propyl ester | C(#N)C=1C(=C(SC1SC)C=1C=C(C=CC1C)NC=1C=C(OCCCOS(=O)(=O)C)C=CC1)C=1C=NC=CC1 | C28H27N3O4S3
